US06509328B1
(2′-Fluoro-3-{3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) (151 mg, 0.5 mmol) and 3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionic acid tert.-butyl ester (Example H20) (154 mg, 0.5 mmol) according to the general procedure K. Obtained as a yellow amorphous substance (157 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 151 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionic acid tert.-butyl ester | 0.5 mmol, 154 mg | C(C)(C)(C)OC(CC(=O)C=1N=C(SC1)N1C=NC(=C1)C)=O | C14H17N3O3S
product | (2′-Fluoro-3-{3-[2-(4-methyl-imidazol-1-yl)-thiazol-4-yl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1N=C(SC1)N1C=NC(=C1)C)=O)=O | C27H26FN5O4S
